* Z:\home\bhargava\ddp\SPICE\AOI.asc
M1 N001 Binp Vdd Vdd CMOSP l=0.36u w=0.72u
M2 N001 Cinp Vdd Vdd CMOSP l=0.36u w=0.72u
M3 N002 Ainp N001 N001 CMOSP l=0.36u w=1.44u
M4 N002 Ainp 0 0 CMOSN l=0.72u w=0.36u
M5 N002 Binp N003 N003 CMOSN l=0.36u w=0.36u
M6 N003 Cinp 0 0 CMOSN l=0.36u w=0.36u
V1 Cinp 0 PULSE(5 0 0 1us)
V2 Binp 0 5
V3 Ainp 0 2
V4 Vdd 0 5
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.mos
.include level1MOS.lib
.option numdgt=10
.tran 0 2us 0
.backanno
.end
