* Z:\home\bhargava\ddp\SPICE\ass7\worked_1_closed_loop.asc
.include tsmc018.lib
M3 out1.m cmfb1 0 0 CMOSN l=0.24u w=2u
M1 N001 in.p out1.m Vdd CMOSP l=0.24u w=32u
M0 Vdd 10umirror N001 Vdd CMOSP l=0.24u w=64u
M2 N001 in.m out1.p Vdd CMOSP l=0.24u w=32u
M4 out1.p cmfb1 0 0 CMOSN l=0.24u w=2u
M5 Vdd 10umirror 10umirror Vdd CMOSP l=0.24u w=6.4u
I1 10umirror 0 10µ
V4 Vdd 0 1.8
C2 cmfb1 out1.m 1p
C4 out1.p cmfb1 1p
Mc1 N007 out1.p N011 Vdd CMOSP l=0.24u w=3.2u
M6 N007 out1.m N011 Vdd CMOSP l=0.24u w=3.2u
Mc2 N007 N010 cmfb1 Vdd CMOSP l=0.24u w=6.4u
Mc3 N011 N011 0 0 CMOSN l=0.24u w=0.4u
Mc4 cmfb1 N011 0 0 CMOSN l=0.24u w=0.4u
Mc5 Vdd 10umirror N007 Vdd CMOSP l=0.24u w=12.8u
Vcmref1 N010 0 0.63
M7 Vop out1.m 0 0 CMOSN l=0.24u w=4u
M8 Vdd cfmb2 Vop Vdd CMOSP l=0.24u w=16u
M9 Vom out1.p 0 0 CMOSN l=0.24u w=4u
M10 Vdd cfmb2 Vom Vdd CMOSP l=0.24u w=16u
C1 N003 Vop 7p
R1 out1.m N003 1k
C3 N004 Vom 7p
R2 out1.p N004 1k
M11 N006 cmfb1 0 0 CMOSN l=0.24u w=4u
M12 N002 N005 N006 0 CMOSN l=0.24u w=2u
M13 cfmb2 Vbias N006 0 CMOSN l=0.24u w=2u
M14 Vdd N002 N002 Vdd CMOSP l=0.24u w=8u
M15 Vdd N002 cfmb2 Vdd CMOSP l=0.24u w=8u
V1 Vbias 0 0.9
R3 Vom N005 100k
R4 N005 Vop 100k
C5 Vom N005 1p
C6 N005 Vop 1p
V3 N009 Vbias DC=0 AC=1 sin(0 0.001 1000000)
E2 N008 Vbias Vbias N009 1
R5 in.m N008 10k
R6 in.p N009 10k
R7 Vom in.p 30K
R8 Vop in.m 30K
R9 Vbias Vop 5k
R10 Vbias Vom 5k
C7 Vbias Vop 5p
C8 Vbias Vom 5p
C9 cfmb2 Vop 1p
C10 Vom cfmb2 1p

.op
.end
