* Z:\home\bhargava\ddp\SPICE\Draft6.asc
XU1 0 N002 N001 opamp Aol=100K GBW=10Meg
V1 N002 0 PULSE(0 1 1us 10us 0 100us)
.tran 0 15us 0
.lib opamp.sub
.backanno
.end
