* Z:\home\bhargava\ddp\SPICE\cmnsrc.asc
V1 N001 0 5
R3 N001 inp 300
R4 inp 0 200
M1 drain inp 0 0 CMOSN l=0.3u w=3u
C1 inp input 1
V2 input 0 SINE(2 1 10000K 0.5u 0)
R1 drain N001 500
R2 output 0 2000
C2 output drain 1
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.mos
.include level1MOS.lib
;op
.tran 0 5us 0 0.01m
.option numdgt=10
.backanno
.end
