* Z:\home\bhargava\ddp\SPICE\4inpNAND.asc
M1 N001 Ainp N002 N002 CMOSN l=0.36u w=0.72u
M2 N002 Binp N003 N003 CMOSN l=0.36u w=0.72u
M3 N003 Cinp N004 N004 CMOSN l=0.36u w=0.72u
M4 N004 Dinp 0 0 CMOSN l=0.36u w=0.72u
M5 N001 Binp Vdd Vdd CMOSP l=0.36u w=2.88u
M6 N001 Ainp Vdd Vdd CMOSP l=0.36u w=2.88u
M7 N001 Cinp Vdd Vdd CMOSP l=0.36u w=2.88u
M8 N001 Dinp Vdd Vdd CMOSP l=0.36u w=2.88u
V1 Vdd 0 5
V2 Ainp 0 PULSE(0 5 0.5u 1us 1us 10us 100us)
V3 Binp 0 PULSE(5 0 5u 1us 1us 10us 100us)
V4 Cinp 0 5
V5 Dinp 0 5
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.mos
.tran 0 4us 0.5us
.include level1MOS.lib
.backanno
.end

