* Z:\home\bhargava\ddp\SPICE\XOR.asc
M1 inter1 Ainp N001 N001 CMOSN l=0.36u w=0.72u
M2 N001 Binp 0 0 CMOSN l=0.36u w=0.72u
M3 inter1 Ainp Vdd Vdd CMOSP l=0.36u w=0.36u
M4 inter1 Binp Vdd Vdd CMOSP l=0.36u w=0.36u
M5 Ainter1 inter1 N002 N002 CMOSN l=0.36u w=0.72u
M6 N002 Ainp 0 0 CMOSN l=0.36u w=0.72u
M7 Ainter1 inter1 Vdd Vdd CMOSP l=0.36u w=0.36u
M8 Ainter1 Ainp Vdd Vdd CMOSP l=0.36u w=0.36u
M9 Binter1 inter1 N003 N003 CMOSN l=0.36u w=0.72u
M10 N003 Binp 0 0 CMOSN l=0.36u w=0.72u
M11 Binter1 inter1 Vdd Vdd CMOSP l=0.36u w=0.36u
M12 Binter1 Binp Vdd Vdd CMOSP l=0.36u w=0.36u
M13 xorout Ainter1 N004 N004 CMOSN l=0.36u w=0.72u
M14 N004 Binter1 0 0 CMOSN l=0.36u w=0.72u
M15 xorout Ainter1 Vdd Vdd CMOSP l=0.36u w=0.36u
M16 xorout Binter1 Vdd Vdd CMOSP l=0.36u w=0.36u
V1 Vdd 0 5
V2 Ainp 0 PULSE(0 5 0 1us)
V3 Binp 0 5
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.mos
.tran 0 2us 0
.include level1MOS.lib
.option numdgt=10
.backanno
.end

