* Z:\home\bhargava\ddp\SPICE\inv_4inpNAND.asc
M1 nandout invout N001 N001 CMOSN l=0.36u w=0.72u
M2 N001 Binp N002 N002 CMOSN l=0.36u w=0.72u
M3 N002 Cinp N003 N003 CMOSN l=0.36u w=0.72u
M4 N003 Dinp 0 0 CMOSN l=0.36u w=0.72u
M5 nandout Binp Vdd Vdd CMOSP l=0.36u w=2.88u
M6 nandout invout Vdd Vdd CMOSP l=0.36u w=2.88u
M7 nandout Cinp Vdd Vdd CMOSP l=0.36u w=2.88u
M8 nandout Dinp Vdd Vdd CMOSP l=0.36u w=2.88u
V1 Vdd 0 5
V2 Ainp 0 PULSE(5 0 0.5us 1us 0 5us)
V3 Binp 0 5
V4 Cinp 0 5
V5 Dinp 0 5
M9 invout Ainp Vdd Vdd CMOSP l=0.36u w=1.44u
M10 invout Ainp 0 0 CMOSN l=0.36u w=0.72u
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.mos
.tran 0 4us 0
.include level1MOS.lib
.option numdgt=10
.backanno
.end

